US06586617B1
Synthesis of 4′-Cyano-N-isopropyl-2′-nitro-p-toluenesulfonanilide (Compound No. 409)
To a mixture of 4′-cyano-2′-nitro-p-toluenesulfonanilide sodium salt (1330 g (3.92 mol)) and DMF (3000 ml), under heating in an oil bath kept at 110° C., isopropyl iodide (2019 g (11.8 mol)) was added over a period of 1.5 hours. After completion of the addition, the mixture was further heated at the same temperature with stirring for 3 hours, and then left to cool to room temperature. Water (1500 ml) was added to bring about separation of crystals. The crystals were filtered, washed with water, dried, and then suspended in diethyl ether. The suspension was stirred for 4 hours, and the insolubles were removed by filtration, the diethyl ether solution was washed with 0.1% aqueous sodium hydroxide solution to remove the remaining starting material, 4′-cyano-2′-nitro-p-toluenesulfonanilide. The diethyl ether layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give crude crystals which were, after washing with ethanol, recrystallized from ethyl acetate to give 124 g (8.8%) of the title compound as pale yellow crystals.

reactant | 4′-cyano-2′-nitro-p-toluenesulfonanilide sodium salt | 3.92 mol, 1330 g | [Na].C(#N)C1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-]
reactant | DMF | 3000 ml | CN(C)C=O | C3H7NO
reactant | isopropyl iodide | 11.8 mol, 2019 g | C(C)(C)I | C3H7I
solvent | Water | 1500 ml | O | H2O
product | 4′-Cyano-N-isopropyl-2′-nitro-p-toluenesulfonanilide | 124 g, 8.8% | C(#N)C1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C(C)C)C=C1)[N+](=O)[O-] | C17H17N3O4S
